US08198448B2
tert-butyl 4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl(methyl)carbamate (0.067 g, 0.13 mmol) was dissolved in MeOH (1.7 mL) and to the solution was added concentrated HCl (0.50 ml, 6.0 mmol). The reaction mixture was stirred at room temperature overnight. Upon completion, the crude mixture was concentrated in vacuo. The solid that remained after concentration was dissolved in MeOH and to the solution was added triethylamine (0.23 ml, 1.6 mmol). The reaction was allowed to stir for 1 h. The crude mixture was concentrated in vacuo. The compound was purified using via flash chromatography, eluting with 5-8% MeOH/NH4OH in DCM to yield 4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)-N-methylbenzenamine as a yellow solid.

reactant | tert-butyl 4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl(methyl)carbamate | 0.13 mmol, 0.067 g | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)N(C(OC(C)(C)C)=O)C | C29H29N5O4
reactant | HCl | 6.0 mmol, 0.50 ml | Cl | ClH
reactant | triethylamine | 1.6 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | MeOH | 1.7 mL | CO | CH4O
product | 4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)-N-methylbenzenamine | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)NC | C24H21N5O2
